US07923573B2
Potassium carbonate (1.38 g, 10 mmol) and methyl iodide (0.623 ml, 10 mmol) were added to a solution of 4-bromo-2-chlorobenzoic acid (2.0 g, 8.5 mmol) in N,N-dimethylformamide (8 ml) under ice-cooling, and the mixture was stirred at room temperature for 3 hours. After the reaction mixture was poured into water and the mixture was extracted with ethyl acetate, the organic layer was successively washed with water and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The solvent was removed under reduced pressure to give an oily residue. After diisobutyl aluminum hydride-11.0M toluene solution (24 ml, 24 mmol) was added dropwise to a solution of the obtained residue in toluene (30 ml) at −78° C., the temperature of the mixture was raised to room temperature over 3 hours. After sodium sulfate decahydrate (12 g) was added to the reaction mixture and the mixture was stirred at room temperature for 30 minutes, Celite (12 g) and anhydrous magnesium sulfate (12 g) were added thereto and the mixture was stirred at room temperature for 30 minutes. After the insolubles were removed by filtration, the solvent was removed from the obtained filtrate under reduced pressure to give crudely purified (4-bromo-2-chlorophenyl)methanol as a solid. According to a method similar to Example (17-1), from crude (4-bromo-2-chlorophenyl)methanol obtained in the above, (4-bromo-2-chlorophenyl)acetonitrile was obtained as a pale yellow solid (1.4 g, yield: 71%).

reactant | Potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 10 mmol, 0.623 ml | CI | CH3I
reactant | 4-bromo-2-chlorobenzoic acid | 8.5 mmol, 2.0 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | diisobutyl aluminum hydride | 24 mmol, 11.0M, 24 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium sulfate decahydrate | 12 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | magnesium sulfate | 12 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (4-bromo-2-chlorophenyl)methanol | BrC1=CC(=C(C=C1)CO)Cl | C7H6BrClO
